US07704995B2
1,1-dimethylethyl (3S)-3-aminoazepane-1-carboxylate:
To 13.7 g (30 mmol) of 1,1-dimethylethyl (3S)-3-[(triphenylmethyl)amino]azepane-1-carboxylate was carefully added 100 mL MeOH, 75 mL EtOH, and 1.00 g of 10% Palladium on charcoal. The mixture was hydrogenated on a Parr shaker under 30 psi of hydrogen gas for 15 h. The mixture was filtered through a pad of celite, and the filtrate concentrated to afford a quantitative yield (6.43 g) of product. The product was used as such without further purification.

reactant | 1,1-dimethylethyl (3S)-3-[(triphenylmethyl)amino]azepane-1-carboxylate | 30 mmol, 13.7 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)N[C@@H]1CN(CCCC1)C(=O)OC(C)(C)C | C30H36N2O2
reactant | MeOH | 100 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
catalyst | Palladium on charcoal | 1.00 g | [Pd] | Pd
solvent | EtOH | 75 mL | CCO | C2H6O
product | 1,1-dimethylethyl (3S)-3-aminoazepane-1-carboxylate | 6.43 g, quantitative yield | N[C@@H]1CN(CCCC1)C(=O)OC(C)(C)C | C11H22N2O2
